US05808062
4-Hydroxy-3-[(2-naphthalenylthio)phenylmethyl]-6-phenyl-2H-Pyran-2-one:
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), benzaldehyde (0.593 mL, 5.84 mmol), 2-naphthalenethiol (2.21 gL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. dec. 200° C.; 1H NMR (400 MHz, DMSO-d6) δ 5.9 (s, 1 H), 6.71 (s, 1 H), 7.20 (m, 5 H), 7.44 (m, 7 H), 7.75 (m, 3 H), 7.82 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | benzaldehyde | 5.84 mmol, 0.593 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-naphthalenethiol | 13.8 mmol | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[(2-naphthalenylthio)phenylmethyl]-6-phenyl-2H-Pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(C1=CC=CC=C1)SC1=CC2=CC=CC=C2C=C1 | C28H20O3S
